US09278967B2
In a manner similar to Example 32, the compound of formula MG, 9-((Z)-cyclooct-2-enyl)-3-oxa-9-azabicyclo[3.3.1]nonan-7-one, was prepared from the compound of formula MF except that the compound of formula ME was used in place of the compound of formula JC (yield 90%). Under a hydrogen atmosphere, a mixture of the compound of formula MG, 5% palladium on carbon (1.0 g, Sigma-Aldrich), and EtOH (20 mL) was stirred at a temperature of about 25° C. for 4 h. After the Pd/C was filtered off, the filtrate was concentrated under reduced pressure to provide the compound of formula MH, 9-cyclooctyl-3-oxa-9-azabicyclo[3.3.1]nonan-7-one.

reactant | 9-((Z)-cyclooct-2-enyl)-3-oxa-9-azabicyclo[3.3.1]nonan-7-one | C1(\C=C/CCCCC1)N1C2COCC1CC(C2)=O | C15H23NO2
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | EtOH | 20 mL | CCO | C2H6O
product | 9-cyclooctyl-3-oxa-9-azabicyclo[3.3.1]nonan-7-one | C1(CCCCCCC1)N1C2COCC1CC(C2)=O | C15H25NO2
